US06156914
6-Dimethylamino-2-(6-dimethylamino-3-oxo-2(3H)-benzofuranylidene)-3(2H)-benzofuranone (1b+2b)
7.00 g (50.7 mmol) of anhydrous potassium carbonate and 10.00 g (70.70 mmol) of 3-dimethylaminophenol are added to 75 ml of dimethylformamide with exclusion of moisture and the mixture is refluxed for 3 hours. 7.00 g (74.9 mmol) of sodium chloroacetate are introduced in portions into the dark brown, still hot reaction mixture in the course of 20 minutes, with vigorous stirring. 50 g of anhydrous aluminium oxide are then introduced into the solution. After boiling under reflux for 2 days, the red-brown reaction mixture is filtered through a frit (G4 frit). The dark red aluminium oxide precipitate is washed with chloroform until the wash solution remains colourless. The organic phases are combined. After the solvent has been stripped off, a dark red-brown highly viscous residue remains which is chromatographed over silica gel using chloroform as the mobile phase for separation into the cis and trans product.

reactant | potassium carbonate | 50.7 mmol, 7.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-dimethylaminophenol | 70.70 mmol, 10.00 g | CN(C=1C=C(C=CC1)O)C | C8H11NO
reactant | sodium chloroacetate | 74.9 mmol, 7.00 g | ClCC(=O)[O-].[Na+]
reactant | aluminium oxide | 50 g | [O-2].[Al+3].[O-2].[O-2].[Al+3]
reactant | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 6-Dimethylamino-2-(6-dimethylamino-3-oxo-2(3H)-benzofuranylidene)-3(2H)-benzofuranone | CN(C1=CC2=C(C(C(O2)=C2OC3=C(C2=O)C=CC(=C3)N(C)C)=O)C=C1)C | C20H18N2O4
